US08754107B2
c) 3,4-dichloro-N-(2-oxo-2-(3-(4-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)piperidin-1-yl)pyrrolidin-1-yl)ethyl)benzamide
The title compound was prepared from 4-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one and 3,4-dichloro-N-(2-oxo-2-(3-oxopyrrolidin-1-yl)ethyl)benzamide using general procedure E. HPLC (Table 1, Method b) Rt 1.73 min; m/z: (M+H)+ 516.

reactant | 4-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one | N1CCC(CC1)C1=CC=CC=2NC(NC21)=O | C12H15N3O
reactant | 3,4-dichloro-N-(2-oxo-2-(3-oxopyrrolidin-1-yl)ethyl)benzamide | ClC=1C=C(C(=O)NCC(N2CC(CC2)=O)=O)C=CC1Cl | C13H12Cl2N2O3
product | 3,4-dichloro-N-(2-oxo-2-(3-(4-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-4-yl)piperidin-1-yl)pyrrolidin-1-yl)ethyl)benzamide | ClC=1C=C(C(=O)NCC(N2CC(CC2)N2CCC(CC2)C2=CC=CC=3NC(NC32)=O)=O)C=CC1Cl | C25H27Cl2N5O3
